Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bothersome lower urinary tract symptoms, suggestive of benign 
prostatic hyperplasia
 
Major Surgical or Invasive Procedure:
___: transurethral resection of prostate

 
History of Present Illness:
___ y/o male with bothersome LUTS, on maximal medical therapy 
with tamsulosin/finasteride and progressive symptoms (IPSS 30 <- 
9). 80 gram prostate on TRUS, median lobe on cystoscopy.

Now s/p uncomplicated TURP, spinal anesthesia. Highly occlusive 
trilobar gland resected from BN to veru with excellent 
hemostasis. ___ Fr three-way Foley catheter in place; CBI running 
crystal clear on brisk drip.
 
Past Medical History:
- appendectomy
- HLD

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Exam on discharge:

- AAOx4, NAD, WDWN older male resting comfortably in bed
- skin WWP
- breathing unlabored on RA
- abd soft, NT, ND
- no CVAT
- Foley catheter in place, urine pale pink off CBI
- moving all extremities spontaneously, no edema
 
Pertinent Results:
___ 06:15PM BLOOD Glucose-128* UreaN-30* Creat-1.1 Na-139 
K-4.5 Cl-101 HCO3-25 AnGap-18
 
Brief Hospital Course:
Mr. ___ was admitted to the urology service after bipolar 
transurethral resection of the prostate. No concerning 
intraoperative events occurred; please see the dictated 
operative note for details.

The patient received ___ antibiotic prophylaxis and 
his postoperative course was uncomplicated. He received 
continuous bladder irrigation overnight. On POD 1 the CBI was 
discontinued. His urine was clear-pink and without clots. He 
remained afebrile throughout his hospital stay.

He was discharged home the morning of POD 1 in good condition 
with his Foley catheter in place. At discharge, he had pain well 
controlled with oral pain medications, was tolerating regular 
diet, ambulating without assistance, and versed on foley 
care/hygiene. He was given oral pain medications on discharge 
and explicit instructions to follow up in clinic for trial of 
void.

He had been noted to have obstructive appearing breathing while 
under sedation for the procedure and was advised to contact his 
PCP for an OSA evaluation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. azelastine 0.15 % (205.5 mcg) nasal BID 
3. Atorvastatin 40 mg PO QPM 
4. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO ONCE Duration: 1 Dose 
Take before your clinic appointment for catheter removal. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
6.  trospium ___ mg oral BID:PRN bladder spasms Duration: 3 
Days 
Stop taking 24 hours before catheter removal. 
RX *trospium 20 mg ___ tablet(s) by mouth twice a day Disp #*4 
Tablet Refills:*0 
7.  Atorvastatin 40 mg PO QPM  
8.  azelastine 0.15 % (205.5 mcg) nasal BID  
9.  Finasteride 5 mg PO DAILY  
10.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
enlarged prostate with lower urinary tract symptoms

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•Stool softeners have been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops.

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 4 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___